2112-12-06 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Scope by GI-unable to dislodge clot in fundus
   -Right IJ placed
   -Left Radial art line placed-subsequently fell out, elected to not
   replace as pressures and HCT remained stable.
   -Q 4H HCT:
   -Minimal sedation overnight, attempt to extubate on rounds if early am
   HCT stable
 INVASIVE VENTILATION - START [**2112-12-5**] 02:52 PM
 ENDOSCOPY - At [**2112-12-5**] 04:22 PM
 MULTI LUMEN - START [**2112-12-5**] 05:26 PM
 ARTERIAL LINE - START [**2112-12-5**] 05:50 PM
 ENDOSCOPY - At [**2112-12-5**] 06:21 PM
 ARTERIAL LINE - STOP [**2112-12-6**] 02:59 AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2112-12-5**] 05:00 PM
   Midazolam (Versed) - [**2112-12-5**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-12-6**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 96 (78 - 102) bpm
   BP: 121/71(83) {86/41(58) - 163/84(98)} mmHg
   RR: 14 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 132 kg
             Total In:
                                                                  6,008 mL
                                                                    189 mL
   PO:
             TF:
   IVF:
                                                                  2,215 mL
                                                                    189 mL
   Blood products:
                                                                  1,094 mL
   Total out:
                                                                  1,105 mL
                                                                    265 mL
   Urine:
                                                                    505 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,903 mL
                                                                    -76 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/46/188/25/-1
   Ve: 6.7 L/min
   PaO2 / FiO2: 470
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   11.0 g/dL
   140 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.6 mEq/L
   30 mg/dL
   110 mEq/L
   140 mEq/L
   31.4 %
   9.7 K/uL
        [image002.jpg]
                             [**2112-12-5**]  01:29 PM
                             [**2112-12-5**]  05:56 PM
                             [**2112-12-5**]  06:10 PM
                             [**2112-12-5**]  08:15 PM
                             [**2112-12-6**]  12:14 AM
                             [**2112-12-6**]  03:52 AM
   WBC
   6.5
   9.7
   Hct
   31
   31.6
   31.8
   30.8
   31.4
   Plt
   205
   209
   Cr
   0.5
   0.6
   TCO2
   25
   26
   Glucose
   159
   114
   140
   Other labs: PT / PTT / INR:13.8/32.1/1.2, ALT / AST:[**10-15**], Alk Phos / T
   Bili:39/0.3, Albumin:3.2 g/dL, LDH:123 IU/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   1. GIB
   Hematemesis c/w upper GI source. Extent of bleeding seems more
   extensive than can be accounted for by simple esophagitis. No history
   of liver disease to suggest gastro/esophageal varices. Consider also
   peptic ulcer.
   - EGD to be done emergently today
   - PIV x2
   - NGT
   - await coags
   - protonix bolus followed by drip
   - T+S
   - f/u hct q4h
   .
   2. HIV
   - continue outpatient meds. will need to discuss ARV plans with ID
   given likely need for more intensive acid-reducing therapy.
   .
   3. Hypertension
   - Hold antihypertensives in setting of bleeding
   .
   FEN NPO/NGT
   Access PIVx2. will attempt arterial line placement
   PPX PPI as above, pneumoboots, mouthcare/head of bed elevation
   Dispo ICU
   Code full
   Comm unable to contact daughter, will d/w social work for further
   assistance
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-12-5**] 03:53 PM
   Multi Lumen - [**2112-12-5**] 05:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-12-07 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated overnight, became AAOx3 several hours later.
 ENDOSCOPY - At [**2112-12-6**] 02:55 PM
   Procedure started at 1455 and ended at 1525.
 INVASIVE VENTILATION - STOP [**2112-12-6**] 05:20 PM
 URINE CULTURE - At [**2112-12-6**] 10:12 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-12-6**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-12-7**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 95 (93 - 111) bpm
   BP: 112/56(68) {95/48(60) - 122/72(81)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 133.4 kg (admission): 132 kg
             Total In:
                                                                    542 mL
                                                                    418 mL
   PO:
             TF:
   IVF:
                                                                    542 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                    230 mL
   Urine:
                                                                  1,020 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -478 mL
                                                                    188 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 310 (310 - 398) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 93
   PIP: 15 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/45/99.[**Numeric Identifier 433**]/29/3
   Ve: 8.4 L/min
   PaO2 / FiO2: 248
   Physical Examination
   HEENT: Intubated and sedated, follows commands and awakes to voice
   Lungs: CTAB
   Heart: RRR normal S1, S2
   Abd: Soft, NT, ND
   EXT: MAE, no CCE
   Labs / Radiology
   182 K/uL
   9.4 g/dL
   130 mg/dL
   0.6 mg/dL
   29 mEq/L
   4.0 mEq/L
   23 mg/dL
   111 mEq/L
   143 mEq/L
   26.5 %
   9.3 K/uL
        [image002.jpg]
                             [**2112-12-5**]  05:56 PM
                             [**2112-12-5**]  06:10 PM
                             [**2112-12-5**]  08:15 PM
                             [**2112-12-6**]  12:14 AM
                             [**2112-12-6**]  03:52 AM
                             [**2112-12-6**]  10:54 AM
                             [**2112-12-6**]  05:00 PM
                             [**2112-12-6**]  09:20 PM
                             [**2112-12-6**]  11:20 PM
                             [**2112-12-7**]  02:15 AM
   WBC
   6.5
   9.7
   10.7
   9.3
   Hct
   31.6
   31.8
   30.8
   31.4
   29.9
   29.4
   27.2
   26.5
   Plt
   [**Telephone/Fax (3) 3293**]82
   Cr
   0.5
   0.6
   0.6
   TCO2
   26
   30
   Glucose
   114
   140
   130
   Other labs: PT / PTT / INR:13.8/32.1/1.2, ALT / AST:[**10-15**], Alk Phos / T
   Bili:39/0.3, Albumin:3.2 g/dL, LDH:123 IU/L, Ca++:8.4 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   #. GIB
   Hematemesis c/w upper GI source, though unclear what type of lesion
   under clot on EGD
   - HCT Q6H
   - RIJ for access
   - Protonix [**Hospital1 **]
   - T+S active
   - Extubated yesterday
   .
   #Altered Mental Status
   -Likely in relation to antiretroviral therapy and benzos in setting of
   previous intubation
   -Continue to monitor for improvement as benzos wear off
   .
   #. HIV
   - continue outpatient meds. will need to discuss ARV plans with ID
   given likely need for more intensive acid-reducing therapy.
   .
   #. Hypertension
   - Hold antihypertensives in setting of bleeding
   .
   FEN-Regular diet once extubated
   Continue Right IJ until other access established
   PPX PPI as above, pneumoboots, mouthcare/head of bed elevation
   Dispo-Transfer to floor
   D/C foley when patient mental status improved
   Code full
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2112-12-5**] 05:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: